US07790728B2
N-(6-Chloro-5-pyridin-4-ylpyrazin-2-yl)cyclopropanecarboxamide
To a stirred solution of 6-chloro-5-pyridin-4-ylpyrazin-2-amine (Preparation 7, 0.73 g, 3.56 mmol) in pyridine (15 mL) was added cyclopropanecarbonyl chloride (648 μL, 7.1 mmol). The solution was stirred at 70° C. for 1 h 30 min, evaporated, partitioned between dichloromethane and a 4% sodium bicarbonate aqueous solution, the aqueous phase extracted twice with dichloromethane, the organic layers washed with brine, dried (MgSO4) and evaporated. The residue was triturated with diethyl ether and methanol and the precipitate was collected by filtration and dried to furnish the title compound as a light brown solid (0.69 g, 70%).

reactant | 6-chloro-5-pyridin-4-ylpyrazin-2-amine | 3.56 mmol, 0.73 g | ClC1=C(N=CC(=N1)N)C1=CC=NC=C1 | C9H7ClN4
reactant | cyclopropanecarbonyl chloride | 7.1 mmol, 648 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-Chloro-5-pyridin-4-ylpyrazin-2-yl)cyclopropanecarboxamide | 0.69 g, 70% | ClC1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C13H11ClN4O
